US08629166B2
a) 5-Iodo-6-(2,2,2-trifluoroethoxy)nicotinic acid
6-Chloro-5-iodo-3-pyridinecarboxylic acid (CAN 59782-87-5, 4.7 g, 16.6 mmol) was dissolved in DMSO (49.5 ml). Potassium hydroxide pellets (2.79 g, 49.7 mmol) and 2,2,2-trifluoroethanol (2.16 g, 1.55 ml, 21.6 mmol) were added slowly at room temperature under argon. The reaction mixture was stirred for 2 h at rt; water (35 mL) was added and the mixture was cooled to 0-5° C. Concentrated HCl solution (8 mL) was added drop by drop and the precipitated solid was collected, washed with cold water and dried. The crude material was purified by flash chromatography (silica gel, 150 g, 0% to 20% i-propyl acetate in n-heptane +10% of acetic acid) to give the title compound (1.6 g, 28%) as colorless solid; MS (ESI) 345.7 (M−H)−.

reactant | 6-Chloro-5-iodo-3-pyridinecarboxylic acid | 16.6 mmol, 4.7 g | ClC1=C(C=C(C=N1)C(=O)O)I | C6H3ClINO2
reactant | Potassium hydroxide | [OH-].[K+]
reactant | 2,2,2-trifluoroethanol | 21.6 mmol, 1.55 ml, 2.16 g | FC(CO)(F)F | C2H3F3O
reactant | HCl | 8 mL | Cl | ClH
solvent | DMSO | 49.5 ml | CS(=O)C | C2H6OS
solvent | water | 35 mL | O | H2O
product | 5-Iodo-6-(2,2,2-trifluoroethoxy)nicotinic acid | 1.6 g, 28% | IC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5F3INO3
